US08648066B2
To 5-bromo-2-methylbenzimidazole (38 g, 180 mmol) in THF (400 mL) was added di-tert-butyl dicarbonate (39 g, 189 mmol). The reaction mixture was stirred at room temperature for 24 h and then concentrated. Ethyl acetate (400 mL) was added to the residue, and the solution was washed with 10% aqueous citric acid (2×100 mL), water (100 mL), and brine (100 mL), dried over sodium sulfate, and concentrated. Column chromatography on silica (gradient 20-30% ethyl acetate in hexane) provided 1,1-dimethylethyl 6-bromo-2-methyl-1H-benzimidazole-1-carboxylate (27 g, 48% yield) as a beige solid. MS (EI) for C13H15BrN2O2: 312 (MH+).

reactant | 5-bromo-2-methylbenzimidazole | 180 mmol, 38 g | BrC1=CC2=C(N=C(N2)C)C=C1 | C8H7BrN2
reactant | di-tert-butyl dicarbonate | 189 mmol, 39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 6-bromo-2-methyl-1H-benzimidazole-1-carboxylate | 27 g, 48% yield | BrC=1C=CC2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C1 | C13H15BrN2O2
